US06987116B2
A suspension of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(4-formylphenyl)thieno[2,3-b]pyridine-5-carbonitrile (0.1 g, 0.24 mmol) in 1 mL of N,N-dimethylformamide and 4 mL of dichloromethane is prepared. To the mixture is added morpholine (0.03 mL, 0.32 mmol). The reaction mixture is cooled to 0° C. and sodium triacetoxyborohydride (0.26 g, 1.2 mmol) is added. After stirring at 0° C. for 30 minutes a drop of acetic acid is added and the mixture is stirred at 0° C. for an additional 4 hours. Additional morpholine (0.01 mL, 0.1 mmol) and sodium triacetoxyborohydride are added and the reaction mixture is allowed to warm to room temperature and stirred overnight. The resultant light brown solution is partitioned between dichloromethane and water. The organic layer is washed with saturated aqueous sodium chloride and water, dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting residue is triturated with acetone and water to provide 86 mg of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[4-(morpholin-4-ylmethyl)phenyl]thieno[2,3-b]pyridine-5-carbonitrile as a white solid, mp 106-108° C.; 1H NMR (DMSO-d6) δ 2.38 (br s, 4H), 3.51 (br s, 2H), 3.59 (br s, 4H), 3.86 (s, 3H), 7.40 (s, 1H), 7.46 (d, J=8.0 Hz, 2H), 7.67 (d, J=8.0 Hz, 2H), 7.77 (s, 1H), 8.19 (s, 1H), 8.42 (s, 1H), 9.80 (s, 1H); MS 525.0 (M+H)+.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(4-formylphenyl)thieno[2,3-b]pyridine-5-carbonitrile | 0.24 mmol, 0.1 g | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)SC(=C2)C2=CC=C(C=C2)C=O | C22H13Cl2N3O2S
reactant | morpholine | 0.32 mmol, 0.03 mL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 1.2 mmol, 0.26 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | morpholine | 0.1 mmol, 0.01 mL | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[4-(morpholin-4-ylmethyl)phenyl]thieno[2,3-b]pyridine-5-carbonitrile | 86 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)SC(=C2)C2=CC=C(C=C2)CN2CCOCC2 | C26H22Cl2N4O2S
